US05514810
a) 1,7-Bis(trifluoroacetyl)-1,4,7-triazaheptane
113.3 g (790 mmol) of trifluoroacetic acid ethyl ester is instilled in a solution of 41.14 g (390 mmol) of 1,4,7-triazaheptane in 350 ml of tetrahydrofuran at 0° C. and under nitrogen. It is allowed to stir overnight at room temperature, concentrated by evaporation in a vacuum. The remaining oil is crystallized from hexane. Yield: 115 g (99.9% of theory) Melting point: 68°-70° C. Elementary analysis: Cld: C 32.55 H 3.76 F 38.62 N 14.24 Fnd: C 32.63 H 3.75 F 38.38 N 14.19

reactant | trifluoroacetic acid ethyl ester | 790 mmol, 113.3 g | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | 1,4,7-triazaheptane | 390 mmol, 41.14 g | NCCNCCN | C4H13N3
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 1,7-Bis(trifluoroacetyl)-1,4,7-triazaheptane | FC(C(=O)NCCNCCNC(C(F)(F)F)=O)(F)F | C8H11F6N3O2
